US05008276
Phenol (0.16 g) and potassium carbonate (0.12 g) were stirred together in DMF (6 ml) under nitrogen at room temperature. After 20 minutes, a solution of methyl 2-(3-chloromethylphenoxy)-3-pyridinylacetate (0.5 g) in DMF was added and stirring continued. Copper-bronze (cat.) was added and the reaction mixture heated at 100° C. for a total of 5 hours. GC analysis indicated complete reaction. The reaction mixture was cooled and filtered, and then poured into water (50 ml). The aqueous mixture was extracted with ether (×3) and the combined extracts washed with dilute sodium hydroxide solution. The ether solution was then dried, filtered and evaporated to give methyl 2-(3-phenoxymethylphenoxy)-3-pyridinylacetate as a yellow oil (0.35 g, 59%), mass spectrum m/e 349 (M+); 1H NMR (CDCl3) inter alia delta 3.69 (3H, s); 3.76 (2H, s); 5.07 (2H, s) ppm, contained with traces of DMF. In a separate experiment, the chloromethyl compound (2.73 g, prepared as above) yielded a further 2.00 g of methyl 2-(3-phenoxymethylphenoxy)-3-pyridinylacetate.

reactant | Phenol | 0.16 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-(3-chloromethylphenoxy)-3-pyridinylacetate | 0.5 g | ClCC=1C=C(OC2=NC=CC=C2CC(=O)OC)C=CC1 | C15H14ClNO3
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | methyl 2-(3-phenoxymethylphenoxy)-3-pyridinylacetate | 0.35 g, 59% | O(C1=CC=CC=C1)CC=1C=C(OC2=NC=CC=C2CC(=O)OC)C=CC1 | C21H19NO4
